US04954518
2.95 g of 7-acetylamino-6-phenoxy-4H-1-benzopyran-4-one was dissolved in 30 ml of N,N-dimethylformamide. 1.35 g of potassium tert-butoxide was added with ice-cooling. The mixture was stirred for 30 minutes at the same temperature. Then, 1.55 g of ethanesulfonyl chloride was added thereto dropwise. The mixture was stirred for 1 hour at 20°-25° C. 200 ml of water and 200 ml of ethyl acetate were added. The organic layer was separated. The solvent was removed by distillation under reduced pressure. The resulting crystal was mixed with 20 ml of a 1N aqueous sodium hydroxide solution and 10 ml of ethanol. The mixture was refluxed for 2 hours. 100 ml of water and 100 ml of ethyl acetate were added thereto. The mixture was adjusted to pH 4 with 4N hydrochloric acid. The organic layer was separated. The layer was washed with water and a saturated aqueous NaCl solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a mixture of 5:1 toluene and ethyl acetate) to obtain 0.75 g (yield: 21.7%) of 7-ethylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 7-acetylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.95 g | C(C)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C17H13NO4
reactant | potassium tert-butoxide | 1.35 g | CC(C)([O-])C.[K+]
reactant | ethanesulfonyl chloride | 1.55 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 7-ethylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 0.75 g, yield: 21.7% | C(C)S(=O)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C17H15NO5S
